US06005116
(b) 3-(2-Aminoethoxy)-4-isopropenyl-5-phenylisoxazole hydrochloride
3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(1-hydroxyisopropyl)-5-phenylisoxazole (0.13 g) was dissolved in a 4N hydrochloric acid/1,4-dioxane solution (10 ml), and the solution was stirred at 100° C. for one hour. After the reaction, the reaction mixture was left to be cooled, followed by evaporation of the solvent under reduced pressure. The residue was washed with ethyl acetate to obtain the title compound (0.10 g, 83%) as colorless crystals.

reactant | 3-(2-(N-tert-Butoxycarbonylamino)ethoxy)-4-(1-hydroxyisopropyl)-5-phenylisoxazole | 0.13 g | C(C)(C)(C)OC(=O)NCCOC1=NOC(=C1C(C)(C)O)C1=CC=CC=C1 | C19H26N2O5
reactant | hydrochloric acid 1,4-dioxane | 4N, 10 ml | Cl.O1CCOCC1
product | 3-(2-Aminoethoxy)-4-isopropenyl-5-phenylisoxazole hydrochloride | 0.10 g, 83% | Cl.NCCOC1=NOC(=C1C(=C)C)C1=CC=CC=C1 | InChI=1S/C14H16N2O2.ClH/c1-10(2)12-13(11-6-4-3-5-7-11)18-16-14(12)17-9-8-15;/h3-7H,1,8-9,15H2,2H3;1H
